US05686065
2-Ethyl-1,3-hexanediol was mixed with chlorotriethoxysilane and dicyclohexylamine in a 1:1:1 ratio at 0° C. in absolute ethanol. The resulting product, 2-ethyl-1-triethoxysiloxy-3-hexanol, was obtained in 50% yield and was dissolved to a 10% by weight solution in a 50/50 by volume mixture of ethanol/cyclomethicone.

reactant | 2-Ethyl-1,3-hexanediol | C(C)C(CO)C(CCC)O | C8H18O2
reactant | chlorotriethoxysilane | Cl[Si](OCC)(OCC)OCC | C6H15ClO3Si
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | ethanol | C(C)O | C2H6O
product | 2-ethyl-1-triethoxysiloxy-3-hexanol | 50% yield | C(C)C(CO[Si](OCC)(OCC)OCC)C(CCC)O | C14H32O5Si
